US04340728
Preparation of 5'-O-(5-morpholinopentanoyl)-5-fluorouridine
To a solution of 2.96 g (13.2 m-mol) of 5-morpholinopentanoic acid hydrochloride in pyridine (30 ml) was added 4.2 g (13.9 m-mol) of TPS, and the mixture was stirred for 15 minutes at room temperature. To this solution was added 2.00 g (6.62 m-mol) of 2',3'-O-isopropylidene-5-fluorouridine, and the mixture was stirred for 18 hours at room temperature. The reaction liquid was concentrated under reduced pressure and the residue was distributed in chloroform (50 ml) and an 8% aqueous solution of potassium carbonate (50 ml). The aqueous phase was extracted with chloroform (50 ml ×5) and the extracts were combined with the chloroform phase previously obtained. The chloroform phase was dried with Na2SO4 and concentrated and the residue was subjected to a separation-purification treatment by way of silica gel column chromatography (column size: 5×8 cm, developing solvents: chloroform and chloroform containing 2% methanol) whereby 1.17 g of 5'-O-(5-morpholinopentanoyl)-2',3'-O-isopropylidene-5-fluorouridine was obtained.

reactant | 5-morpholinopentanoic acid hydrochloride | 2.96 g | Cl.O1CCN(CC1)CCCCC(=O)O
reactant | 2',3'-O-isopropylidene-5-fluorouridine | 2.00 g | CC1(OC2[C@H](O[C@H](C2O1)N3C=C(C(=O)NC3=O)F)CO)C | C12H15FN2O6
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | 5'-O-(5-morpholinopentanoyl)-5-fluorouridine | O1CCN(CC1)CCCCC(=O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C(=O)NC(=O)C(=C1)F)O)O | C18H26FN3O8
